US04294760
Methyl 5-[cyanohydroxy(4-methylphenyl)methyl]-1-methylpyrrole-2-acetate (0.161 g, 0.540 mmoles) was dissolved in 30 ml of ether and shaken with 10 percent NaOH, washed with brine and dried over MgSO4. Evaporation of the ether yielded 0.130 g (86.1 percent) of methyl 1-5-(4-methylbenzoyl)pyrrole-2-acetate, mp 118°-120°. The IR was identical to an authentic sample of methyl 1-methyl-5-(4-methylbenzoyl)pyrrole-2-acetate.

reactant | Methyl 5-[cyanohydroxy(4-methylphenyl)methyl]-1-methylpyrrole-2-acetate | 0.540 mmoles, 0.161 g | C(#N)C(C1=CC=C(N1C)CC(=O)OC)(C1=CC=C(C=C1)C)O | C17H18N2O3
reactant | NaOH | [OH-].[Na+]
solvent | ether | 30 ml | CCOCC | C4H10O
product | methyl 1-5-(4-methylbenzoyl)pyrrole-2-acetate | 0.130 g, 86.1 percent | CC1=CC=C(C(=O)C2=CC=C(N2)CC(=O)OC)C=C1 | C15H15NO3
